US07439237B2
(9a) 4-hydroxy-3-trifluoromethyl-benzoic Acid
A mixture of 10.0 g (45.4 mmol) 4-methoxy-3-trifluoromethyl-benzoic acid and 75 g (649 mmol) pyridine hydrochloride was stirred for 5 hours at 180° C. under nitrogen gas. The reaction mixture was then poured onto 1 L of 10% citric acid solution, extracted with 500 ml EtOAc, the organic phase washed with 1 L water, dried and evaporated down under reduced pressure.

reactant | 4-methoxy-3-trifluoromethyl-benzoic acid | 45.4 mmol, 10.0 g | COC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O3
reactant | pyridine hydrochloride | 649 mmol, 75 g | Cl.N1=CC=CC=C1
reactant | citric acid | 1 L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-hydroxy-3-trifluoromethyl-benzoic Acid | OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H5F3O3
